US05811439
The same procedures used in Example 1 were repeated except for using 2.97 g of 4-chlorobenzyl bromide and 2.00 g of indole-4-carbaldehyde as a starting material to give 3.70 g of 1-(4-chlorobenzyl)indole-4-carbaldehyde as yellow crystals. The yield thereof was found to be 100%.

reactant | 4-chlorobenzyl bromide | 2.97 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | 1-(4-chlorobenzyl)indole-4-carbaldehyde | 3.70 g | ClC1=CC=C(CN2C=CC=3C(=CC=CC23)C=O)C=C1 | C16H12ClNO
